US08044052B2
Synthesis of 4-(3-(5-cyclopropylpyridin-2-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide
To a solution of 5-cyclopropyl-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine trifluoroacetate (0.972 g, 3.17 mmol) in CH3CN (10 mL) was added phenyl pyridazin-3-ylcarbamate (0.751 g, 3.49 mmol) followed by diisopropylethylamine (2.76 mL, 15.9 mmol). The reaction was stirred at room temperature for 3 d. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (0-15% EtOH/CH2Cl2) to afford the title compound as a white foam (1.19 g). Recrystallization from hot diisopropyl ether with a few drops of methanol afforded the title compound as an off-white solid (0.857 g, 63% yield). MS (APCI 10V) AP+2 428.09; 1H NMR (400 MHz, CDCl3) δ ppm 0.61-0.67 (m, 2H) 0.93-0.99 (m, 2H) 1.82-1.90 (m, 1H) 2.45 (t, 2H) 2.59 (t, 2H) 3.54 (t, 2H) 3.64 (t, 2H) 6.39 (s, 1H) 6.79-6.82 (m, 1H) 6.92-6.96 (m, 1H) 6.96-7.01 (m, 2H) 7.30-7.35 (m, 2H) 7.38-7.42 (m, 1H) 7.73 (br. s., 1H) 8.01 (d, 1H) 8.29 (d, 1H) 8.82 (d, 1H).

reactant | 5-cyclopropyl-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine trifluoroacetate | 3.17 mmol, 0.972 g | FC(C(=O)O)(F)F.C1(CC1)C=1C=CC(=NC1)OC1=CC(=CC=C1)C=C1CCNCC1
reactant | phenyl pyridazin-3-ylcarbamate | 3.49 mmol, 0.751 g | N1=NC(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
reactant | diisopropylethylamine | 15.9 mmol, 2.76 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-(3-(5-cyclopropylpyridin-2-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide | 1.19 g | C1(CC1)C=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2N=NC=CC2)C=CC1 | C25H25N5O2
